US06251926B1
To a mixture of aluminum chloride (29.3 g) and dichloromethane (250 ml), ethyl chloroglyoxylate (22.3 ml) was added dropwise at 0° C. After stirring for 30 minutes, diphenyl ether (63.5 ml) was added dropwise over 30 minutes at 0° C. followed by stirring for 2 hours, the reaction mixture was poured onto ice (250 g) and stirred for 1 hour at room temperature. The dichloromethane layer was separated, washed with saturated aqueous sodium chloride, dried (MgSO4), and then concentrated. The residue was subjected to column chromatography on silica gel, and ethyl 4-phenoxyphenylglyoxylate (38.0 g, yield 70%) was obtained as an oil from a fraction eluted with ethyl acetate-hexane (1:10, v/v).

reactant | aluminum chloride | 29.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl chloroglyoxylate | 22.3 ml | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | diphenyl ether | 63.5 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | ethyl 4-phenoxyphenylglyoxylate | 38.0 g, yield 70% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)=O | C16H14O4
